US06727264B1
N-(3-{1-[(3S)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure B and Scheme B1 using 1-(3-hydroxyphenyl)ethanone and N-(3-{1-[(3R)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)cyclopropanecarboxamide: ESMS m/e: 497.1 (M+H)+.

reactant | 1-(3-hydroxyphenyl)ethanone | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | N-(3-{1-[(3R)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)cyclopropanecarboxamide | O[C@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C1=CC=CC=C1 | C24H30N2O2
product | N-(3-{1-[(3S)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)CYCLOPROPANECARBOXAMIDE | C(C)(=O)C=1C=C(O[C@@H](CCN2CCC(CC2)C=2C=C(C=CC2)NC(=O)C2CC2)C2=CC=CC=C2)C=CC1 | C32H36N2O3
